US06153652
Synthesis of N-[(4-methylphenyl)acetyl]-D,L-alanine iso-butyl ester
Following General Procedure B' and using 4-methylphenylacetic acid (Aldrich) and D,L-alanine iso-butyl ester hydrochloride (from Example B' above), the title compound was prepared as a solid having a melting point of 102°-104° C. The reaction was monitored by tlc on silica gel (Rf=0.6 in 33% ethyl acetate/hexanes) and purification was by extraction with Et2O followed by washes with aqueous K2CO3 and aqueous HCl.

reactant | 4-methylphenylacetic acid | CC1=CC=C(C=C1)CC(=O)O | C9H10O2
reactant | D,L-alanine iso-butyl ester hydrochloride | Cl.C(C(C)C)OC(C(N)C)=O
product | N-[(4-methylphenyl)acetyl]-D,L-alanine iso-butyl ester | C(C(C)C)OC(C(NC(CC1=CC=C(C=C1)C)=O)C)=O | C16H23NO3
